US04783562
4-Chlorophenyl 4-methylbenzyl thioether
150 g of 4-chlorothiophenol in 200 ml of water, 65 g of potassium hydroxide, 10 g of tetraethylammonium chloride and 140 g of 4-methylbenzyl chloride are initially introduced into a stirred apparatus and are heated under reflux for 4 hours. 300 ml of water are then added, and the mixture is cooled. The solid product is filtered off under suction and washed with water. After the crystals have been dried, 230 g of product of melting point 72° to 73° C. remain.

reactant | 4-chlorothiophenol | 150 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | potassium hydroxide | 65 g | [OH-].[K+]
reactant | 4-methylbenzyl chloride | 140 g | CC1=CC=C(CCl)C=C1 | C8H9Cl
solvent | water | 200 ml | O | H2O
catalyst | tetraethylammonium chloride | 10 g | [Cl-].C(C)[N+](CC)(CC)CC
solvent | water | 300 ml | O | H2O
product | 4-Chlorophenyl 4-methylbenzyl thioether | CC1=CC=C(CSC2=CC=C(C=C2)Cl)C=C1 | C14H13ClS
